US20010003749A1
Following the procedures described in the Example 1, Step C, the reaction of 3-cyclohexanecarbonyl-3-phenylpropionaldehyde (1.02 mmol) and 1-(2-ethoxyphenyl)piperazine (1.13 mmol) with sodium triacetoxyboranehydride (1.33 mmol) gave pure product 1-(2-ethoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)propyl]piperazine (270 mg) in 52% yield. To a solution of free base in methanol was added required amount of hydrochloric acid solution in diethyl ether. The solvents were removed by reduced pressure, and the product was dried under vacuum to give dihydrochloric acid salt.

reactant | 3-cyclohexanecarbonyl-3-phenylpropionaldehyde | 1.02 mmol | C1(CCCCC1)C(=O)C(CC=O)C1=CC=CC=C1 | C16H20O2
reactant | 1-(2-ethoxyphenyl)piperazine | 1.13 mmol | C(C)OC1=C(C=CC=C1)N1CCNCC1 | C12H18N2O
reactant | sodium | [Na] | Na
product | 1-(2-ethoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)propyl]piperazine | 270 mg, 52% yield | C(C)OC1=C(C=CC=C1)N1CCN(CC1)CCC(C1=CC=CC=C1)C(=O)C1CCCCC1 | C28H38N2O2
